US08030305B2
3-Benzyl-6-thiophen-2-yl-[1,2,4]triazolo[4,3-b]pyridazine
The title compound was prepared as described in Example 17 from phenylacetic acid hydrazide (0.67 mmol) and 3-chloro-6-thiophen-2-yl-pyridazine (0.21 mmol). 1H NMR (400 MHz, CDCl3) δ 8.05 (1H, d, J=9.8 Hz), 7.66 (1H, dd, J=3.8 Hz, 1.3 Hz), 7.55 (1H, dd, J=5.0 Hz, 1.0 Hz), 7.53 (2H, m), 7.46 (1H, d, J=9.9 Hz), 7.31 (2H, m), 7.24 (1H, t, J=7.5 Hz), 7.17 (1H, dd, J=5.0 Hz, 3.8 Hz), 4.60 (2H, s). ESI-MS (m/z): Calcd for C16H12N4S: 292.1; found 293.2 (M+H).

reactant | phenylacetic acid hydrazide | 0.67 mmol | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
reactant | 3-chloro-6-thiophen-2-yl-pyridazine | 0.21 mmol | ClC=1N=NC(=CC1)C=1SC=CC1 | C8H5ClN2S
product | 3-Benzyl-6-thiophen-2-yl-[1,2,4]triazolo[4,3-b]pyridazine | C(C1=CC=CC=C1)C1=NN=C2N1N=C(C=C2)C=2SC=CC2 | C16H12N4S
